US07612067B2
Preparation of 8-(1-ethyl-propyl)-2,6-dimethyl-3-[4-methyl-2-(tetrahydro-pyran-4-yl)-thiazol-5-yl]-imidazo[1,2-b]pyridazine
Add 3-[2-(3,6-dihydro-2H-pyran-4-yl)-4-methyl-thiazol-5-yl]-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (55 mg, 0.14 mmol), 5% palladium on carbon (55 mg) and absolute ethanol (50 ml) to a pressure vessel. Purge the reaction vessel with nitrogen, purge the reaction vessel with hydrogen, pressurize the reaction mixture with hydrogen (415 KPa), seal the vessel, agitate the reaction and heat to 40° C. Continue the reaction for 18 hours then turn off the heat and allow the reaction mixture to cool to ambient temperature. Vent the excess hydrogen from the vessel and purge the vessel with nitrogen. Filter the reaction mixture to remove the 5% palladium on carbon. The filtrate is concentrated and applied onto a silica-gel chromatography column (Hexane:AcOEt:2 M NH3 in MeOH=10:3:1) to give 12.8 mg of the title compound. Yield 23%. mass spectrum (m/e): 399 (M+1). 1H NMR (CDCl3): δ 6.73 (s, 1H), 4.14 (m, 2H), 3.60 (m, 2H), 3.34 (m, 2H), 2.56 (s, 3H), 2.48 (s, 3H), 2.36 (s, 3H), 2.16 (m, 2H), 2.02 (m, 2H), 1.87 (m, 4H), 0.91 (t, J=7.6 Hz, 6H).

reactant | 3-[2-(3,6-dihydro-2H-pyran-4-yl)-4-methyl-thiazol-5-yl]-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.14 mmol, 55 mg | O1CCC(=CC1)C=1SC(=C(N1)C)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | C22H28N4OS
catalyst | palladium on carbon | 55 mg | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 8-(1-ethyl-propyl)-2,6-dimethyl-3-[4-methyl-2-(tetrahydro-pyran-4-yl)-thiazol-5-yl]-imidazo[1,2-b]pyridazine | 12.8 mg, Yield 23% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C(S2)C2CCOCC2)C | C22H30N4OS
